US04743685
(A) 2-(Cyanomethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone
To a suspension of 2.0 g (6 mmol) of 2-(chloromethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone in 20 ml of acetonitrile was added 3.9 g (60 mmol) of potassium cyanide and 0.1 g of 18-crown-6; the mixture was heated to reflux for 2.5 hours. The salts were filtered off by suction, and the filtrate was evaporated in vacuo. The resulting residue was purified by column chromatography on silica gel using ethyl acetate/methanol (8:2) as eluent; yielding 0.55 g of the title compound, melting point 175°-180° C.

reactant | 2-(chloromethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone | 6 mmol, 2.0 g | ClCC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H18ClNO2
reactant | potassium cyanide | 60 mmol, 3.9 g | [C-]#N.[K+]
reactant | 18-crown-6 | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-(Cyanomethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone | 0.55 g | C(#N)CC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H18N2O2
